US07425634B2
(23a) (2,2-diethyl-1,3-dioxan-5-yl)methanol
The same procedure as in the step (7a) of Example 7 was repeated using 2-(hydroxymethyl)-1,3-propanediol, and 3-pentanone to obtain the title compound (1.5 g, yield: 46%) as a light yellow oil.

reactant | 2-(hydroxymethyl)-1,3-propanediol | OCC(CO)CO | C4H10O3
reactant | 3-pentanone | CCC(CC)=O | C5H10O
product | (2,2-diethyl-1,3-dioxan-5-yl)methanol | 1.5 g, yield: 46% | C(C)C1(OCC(CO1)CO)CC | C9H18O3
